US06498165B1
Step A: 2-(Ethylthio)-4-hydroxy-5-methylpyrimidine
To a solution of ethyl propionate (1.2 mL, 10 mmol) in DMF (1 mL) was added sodium methoxide (740 mg, 13 mmol), and to this was added ethyl formate (560 μL, 6.7 mmol) very slowly over 1 h period. The reaction mixture was stirred for 30 min then 2-ethyl-2-thiopseudourea (1.3 g, 6.7 mmol) in methanol (2.5 mL) was added at once. The mixture was heated and maintained at reflux for 2 h, cooled to room temperature and acidified to pH 6 with concentrated HCl. The resulting slurry was kept in ice bath for 30 minutes. The solid was collected and was rinsed with methanol. The solid was dried under vacuum to give 154 mg of the title compound. Mass spectrum 171.1 (CI, M+1).

reactant | ethyl propionate | 10 mmol, 1.2 mL | C(CC)(=O)OCC | C5H10O2
reactant | sodium methoxide | 13 mmol, 740 mg | C[O-].[Na+]
reactant | ethyl formate | 6.7 mmol, 560 μL | C(=O)OCC | C3H6O2
reactant | 2-ethyl-2-thiopseudourea | 6.7 mmol, 1.3 g | C(C)SC(N)=N | C3H8N2S
reactant | HCl | Cl | ClH
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | methanol | 2.5 mL | CO | CH4O
product | 2-(Ethylthio)-4-hydroxy-5-methylpyrimidine | 154 mg | C(C)SC1=NC=C(C(=N1)O)C | C7H10N2OS
